US04888043
Pyridine (0.53 ml, 6.6 mmol) followed by methane sulfonyl chloride (0.52 ml, 6.6 mmol) was added to a stirred solution of 2-propionyl-3-hydroxy-5-(3-amino-2,4,6-trimethylphenyl)cyclohex-2-en-1-one (1.0 g, 3.3 mmol)in methylene chloride (10 ml). Stirring was continued at 20° for 8 hr. The organic layer was washed with water, dilute hydrochloric acid and further water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to yield the crude product. The crude material was purified by column chromatography on silica gel (elution with an increasing gradient of methanol in methylene chloride) to give 2-propionyl-3-hydroxy- 5-(3-methylsulphonamido-2,4,6-trimethylphenyl)cyclohex-2-en-1-one as a yellow waxy solid (0.6 g, 50%). The compound was characterized by proton magnetic resonance spectroscopy (CDCl3 ; δ in ppm): 1.17 (3H,t); 2.35 6H, s); 2.46 (3H,s); 3.0 (3H,s); 2.4-4.1 (7H,m); 6.78 (1H,s); 6.89 (1H,s); 18.15 (1H,brs).

reactant | Pyridine | 6.6 mmol, 0.53 ml | N1=CC=CC=C1 | C5H5N
reactant | methane sulfonyl chloride | 6.6 mmol, 0.52 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-propionyl-3-hydroxy-5-(3-amino-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 3.3 mmol, 1.0 g | C(CC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C=C1C)C)N)C)=O | C18H23NO3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-propionyl-3-hydroxy- 5-(3-methylsulphonamido-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | C(CC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C=C1C)C)NS(=O)(=O)C)C)=O | C19H25NO5S
